US04288595
7-[(2,5-Dimethylphenyl)Sulfonyl]-7H-Pyrrolo-[3,2-f]Quinazoline-1,3-Diamine
A solution of 11.97 g. 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine, as prepared in Example 1, in 750 ml. dry dimethylformamide is stirred under nitrogen as 3.18 g. of ca. 50% sodium hydride-mineral oil is added carefully. After stirring for 1.5 hours and chilling with an ice-water bath, a solution of 13.51 g. 2,5-dimethylbenzenesulfonyl chloride in 50 ml. dry dimethylformamide is added dropwise to the chilled stirring suspension. Stirring is continued for 4 hours, while the reaction slowly warms to ambient temperature, and is quenched with 30 ml. isopropanol. After removal of solvent (in vacuo), the residue is stirred thoroughly with excess aqueous potassium carbonate solution and filtered. The solids are collected, washed well with water, rinsed with hexane, and dried. The crude product is dissolved in 2.5 liters of boiling methanol, treated with charcoal, and filtered through Celite. The filtrate is concentrated to ca. 1 liter and chilled. The crystalline solid is collected and again recrystallized from methanol and dried to afford 9.68 g. of the title compound, m.p. 271.5°-272.5° C., NMR (d DMSO): δ2.35 (singlet, 5--CH3), 2.39 (singlet, 2--CH3), 5.93 (singlet, 3--NH2), 6.88 (singlet, 1--NH2), 7.16 (doublet, J=9 cps, 5H), 7.48 (doublet, J=31/2 cps, 9H), 8.9 (doublet, J=31/2 cps, 8H) p.p.m.; λmax95%EtOH 242 shoulder (ε28,300), 257 (ε31,700), 288 shoulder (ε12,500), 350 (ε4,900) nm; λmin95%EtOH 320 (ε2,700) nm.

reactant | 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | C=1(N=C(N=C2C=CC3=C(C12)C=CN3)N)N | C10H9N5
reactant | sodium hydride | [H-].[Na+]
reactant | 2,5-dimethylbenzenesulfonyl chloride | CC1=C(C=C(C=C1)C)S(=O)(=O)Cl | C8H9ClO2S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-[(2,5-Dimethylphenyl)Sulfonyl]-7H-Pyrrolo-[3,2-f]Quinazoline-1,3-Diamine | CC1=C(C=C(C=C1)C)S(=O)(=O)N1C=CC=2C3=C(N=C(N=C3C=CC21)N)N | C18H17N5O2S
